US04272437
1-(t-butyldimethylsilyl-3-(1'-hydroxy-2'-phenylethyl)-4-tritylthio-2-azetidinone (2 trans diastereomers).
trans 1-(t-butyldimethylsilyl)-3-phenylacetyl-4-tritylthio-2-azetidinone (28.8 g, 50 mmol) and NaBH4 (0.5 g, 0.25 mole) in THF (200 ml) were stirred at room temperature for 18 h. The mixture was poured onto ice-1 N HCl and extracted with CH2Cl2. The CH2Cl2 solution was washed with brine and dried (Na2SO4). It was evaporated to give an amorphous solid (27.7 g). A portion of the solid (23.0 g) was chromatographed on SiO2 and eluted with hexane: ether to give off-white solid (14.4 g) which was found to be a mixture of (1'R,3S,4R and 1'S,3R,4S) and (1'S,3S,4R and 1'R,3R,4S) isomers in the ratio of 1:1 (60%). 1Hmr (CDCl3) δ: 7-7.7 (20H, m), 4.37 (1/2H, d), 4.18 (1/2H, d), 3.3-3.8 (H, m), 3.45 (1/2H, dd), 3.1 (1/2H, dd), 2.7 (2H, m), 0.87 (9H, d) and 0.25 ppm (6H, s).

reactant | trans 1-(t-butyldimethylsilyl)-3-phenylacetyl-4-tritylthio-2-azetidinone | 50 mmol, 28.8 g | [Si](C)(C)(C(C)(C)C)N1C([C@H]([C@@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC1=CC=CC=C1)=O)=O | C36H39NO2SSi
reactant | NaBH4 | 0.25 mole, 0.5 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | t-butyldimethylsilyl-3-(1'-hydroxy-2'-phenylethyl)-4-tritylthio-2-azetidinone | 27.7 g | [Si](C)(C)(C(C)(C)C)N1C(C(C1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC1=CC=CC=C1)O)=O | C36H41NO2SSi
